US07612114B2
(R)-6-{2-{Ethyl[4-(2-pyrrolidin-1-ylethyl)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (28 mg) and pyrrolidine (20 mg) according to an analogous synthetic method to Example 715 and purified by LC-MS, the title compound (11 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 28 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC=C2)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C32H37NO4
reactant | pyrrolidine | 20 mg | N1CCCC1 | C4H9N
product | (R)-6-{2-{Ethyl[4-(2-pyrrolidin-1-ylethyl)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 11 mg | C(C)N(C1=C(C=CC=C1)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)CCN1CCCC1 | C31H38N2O
